US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-5-chloro-2-hydroxypyridine-3-carboxamide (Compound No. 24)
5-Chloro-2-hydroxynicotinic acid (174 mg, 1 mmol), 3,5-bis(trifluoromethyl)aniline (275 mg, 1.2 mmol) and pyridine (316 mg, 4 mmol) were dissolved in tetrahydrofuran (20 mL) and dichloromethane (10 mL). Phosphorus oxychloride (0.112 ml, 1.2 mmol) was added, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ethyl acetate (100 mL) and 0.2 N hydrochloric acid (100 mL), filtered through celite after stirring for 30 minutes, and the water layer of the filtrate was extracted with ethyl acetate. After the combined ethyl acetate layer was washed with water and brine one after another, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1→1:1) to give a light yellow solid. This was suspended and washed with ethanol under heating at reflux to give the title compound (183 mg, 47.6%) as a white crystal.

reactant | 5-Chloro-2-hydroxynicotinic acid | 1 mmol, 174 mg | ClC=1C=NC(=C(C(=O)O)C1)O | C6H4ClNO3
reactant | 3,5-bis(trifluoromethyl)aniline | 1.2 mmol, 275 mg | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | pyridine | 4 mmol, 316 mg | N1=CC=CC=C1 | C5H5N
reactant | Phosphorus oxychloride | 1.2 mmol, 0.112 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | 0.2 N, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[3,5-Bis(trifluoromethyl)phenyl]-5-chloro-2-hydroxypyridine-3-carboxamide | 183 mg, 47.6% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C=1C(=NC=C(C1)Cl)O)(F)F | C14H7ClF6N2O2
